US07943613B2
5-Bromo-2-methylbenzo[b]thiophene (8.0 g, 35.2 mmol; prepared according to J. Med. Chem. 1986, 29, 1643) was dissolved in acetic acid (200 mL); 30% hydrogen peroxide (50 mL) was added and the mixture was refluxed for 4 h. Water (500 mL) was added and the mixture was extracted with benzene (300 mL). The organic layer was evaporated in vacuo and the residue was purified by column chromatography (silica gel Fluka 60, benzene) affording 5-bromo-2-methylbenzo[b]thiophene-1,1-dioxide.

reactant | 5-Bromo-2-methylbenzo[b]thiophene | 35.2 mmol, 8.0 g | BrC1=CC2=C(SC(=C2)C)C=C1 | C9H7BrS
reactant | hydrogen peroxide | 50 mL | OO | H2O2
reactant | Water | 500 mL | O | H2O
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2-methylbenzo[b]thiophene-1,1-dioxide | BrC1=CC2=C(S(C(=C2)C)(=O)=O)C=C1 | C9H7BrO2S
